US05495020
To 2,3,5-trifluoro-4-methyltoluene (1.9 g) is added conc. sulfuric acid (19 ml) and the mixture is cooled to 0° C., to which a solution of potassium nitrate (1.71 g) in conc. sulfuric acid (4.6 ml) is added dropwise below 10° C. and the mixture is stirred for 15 minutes. The mixture is poured into ice-water, extracted with diethyl ether, and the extract is washed with water and dried. The solvent is distilled off under reduced pressure and the residue is purified by silica-gel column-chromatography (dichloromethane: n-hexane =1 : 6) to give 2,3,6-trifluoro-4-methyl-5-nitrotoluene (1.9 g).

reactant | 2,3,5-trifluoro-4-methyltoluene | 1.9 g | FC1=C(C=C(C(=C1F)C)F)C | C8H7F3
reactant | potassium nitrate | 1.71 g | [N+](=O)([O-])[O-].[K+]
solvent | sulfuric acid | 4.6 ml | S(O)(O)(=O)=O | H2O4S
solvent | sulfuric acid | 19 ml | S(O)(O)(=O)=O | H2O4S
product | 2,3,6-trifluoro-4-methyl-5-nitrotoluene | 1.9 g | FC1=C(C(=C(C(=C1F)C)[N+](=O)[O-])F)C | C8H6F3NO2
